US04049668
The process of producing the surfactant of claim 1 comprising (a) reacting at reflux 2,2,3,4,4,4-hexafluorobutanol and 11-bromoundecanoic acid in presence of methane sulfonic acid as a catalyst and benzene as a solvent to obtain 2,2,3,4,4,4-hexafluorobutyl 11-bromoundecylate and then (b) reacting at reflux 2,2,3,4,4,4-hexafluorobutyl 11-bromoundecylate with pyridine in presence of methanol as a solvent to obtain 2,2,3,4,4,4-hexafluorobutyl 11-pyridylundecylate bromide.

reactant | 2,2,3,4,4,4-hexafluorobutyl 11-bromoundecylate | BrCCCCCCCCCCC(=O)OCC(C(C(F)(F)F)F)(F)F | C15H23BrF6O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | methanol | CO | CH4O
product | 2,2,3,4,4,4-hexafluorobutyl 11-pyridylundecylate bromide | [Br-].N1=C(C=CC=C1)CCCCCCCCCCC(=O)OCC(C(C(F)(F)F)F)(F)F | InChI=1S/C20H27F6NO2.BrH/c21-18(20(24,25)26)19(22,23)15-29-17(28)13-8-6-4-2-1-3-5-7-11-16-12-9-10-14-27-16;/h9-10,12,14,18H,1-8,11,13,15H2;1H/p-1
